data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]C(=O)C1CCC2C13CCC(C3)C(C2C)(C)C.C[C:10]1=[C:11]2CCC(C23CCC(C3)C1(C)C)C(=O)O>>[H:20][C:10]1([C+:11]2CCC(C23CCC(C3)C1(C)C)C(=O)O)C.CC1C2CCC(C23CCC(C3)C1(C)C)C(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCC1(CCCN(C1[OH:10])C(=O)CCl)CCC2=CC3=C(N2)C=CC=C3.O>>[H:20][OH+:10]C1C(CCCN1C(=O)CCl)(CC)CCC2=CC3=C(N2)C=CC=C3.C(=O)(C(F)(F)F)[O-:21].O 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.B1(OC(C(O1)(C)C)(C)C)CC=CCCCC(OC)[O:10]C>>[H:20][O+:10](C)C(CCCC=CCB1OC(C(O1)(C)C)(C)C)OC.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
C[S:10][CH:20]=[NH:21]>>C[S+:10]=[CH:20][NH-:21] 10=20;20,21=21
[H:20][NH3+:21].C=C(C1=CC=CC=C1)[O-:10]>>[H:20][O:10]C(=C)C1=CC=CC=C1.[NH3:21] 10=20;20,21=21
CN[CH:20]=[NH+:21]C.[OH2:10].[Cl-]>>CN[CH:20]([NH:21]C)[OH2+:10].[Cl-] 10=20;20,21=21
[H:20][C:21]1(C=C(C=C([C+:22]1NC(=O)CC)Br)Br)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.CCC(=O)N[C:22]1=[C:21](C=C(C=C1Br)Br)Br 10=20;20,21=21,22
CCOC(=O)C(C(=O)CC1=CC(=O)OC(O1)(C)C)[C:20](CCC2=CC=CC=C2)([O-:10])[Cl:21].C1=CC=[NH+]C=C1>>CCOC(=O)C([C:20](=[O:10])CCC1=CC=CC=C1)C(=O)CC2=CC(=O)OC(O2)(C)C.[Cl-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][OH2+:21].CCOCC[CH2:10][Sn-:11](C)(C)(C)F>>[H:20][CH2:10]CCOCC.C[Sn:11](C)(C)F.[OH2:21] 10,11=10,20;20,21=21
C1CO[C:20]([OH+:21]1)([NH2:10])O>>C(CO[C:20](=[NH2+:10])O)[OH:21] 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1C)Br.[Br-:10]>>[H:20][Br:10].C[C:22]1=[C:21](C2=C(C=CC=C2)C=C1)Br 10=20;20,21=21,22
[CH3:20][Br:21].[C-:10]#N>>[CH3:20][C:10]#N.[Br-:21] 10=20;20,21=21
[Li:20]N(C(C)C)C(C)C.CC(CCCO[Si](C)(C)C(C)(C)C)C1CCCC1=[O:10]>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C1CCCC1C(C)CCCO[Si](C)(C)C(C)(C)C 10=20,
[H:20][CH:21](CC(=O)C1=CC(=CC(=C1)C2=CC=C(N2)C)C3=CC=C(N3)C)[C:22](=[NH2+:23])C.CC(=O)[O-:10].C(=O)[O-].O>>[H:20][O:10]C(=O)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)C[CH:21]=[C:22](C)[NH2:23])C3=CC=C(N3)C.C(=O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C(C(C)C1=CC=C(C=C1)OC)(OC)OC.CS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C.CC(C1=CC=C(C=C1)OC)C([OH:21])(OC)OC 10=20;20,21=21
CCCCCC(CC)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCCCC(CC)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
C1=CC=C(C=C1)[CH:10](C2=CC=CC=C2)[OH2+:11]>>C1=CC=C(C=C1)[CH+:10]C2=CC=CC=C2.[OH2:11] 10,11=11
[H:20][CH:21]1CC2C([C:22]1(C#C)[O:23][S+](C3=CC=CC=C3)C4=CC=CC=C4)O2.C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)[O-:10].C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O>>[H:20][O:10]C(C1=CC=CC=C1)(C(F)(F)F)C(F)(F)F.C#C[C:22]1=[CH:21]CC2C1O2.C1=CC=C(C=C1)[S+](C2=CC=CC=C2)[O-:23].C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O 10=20;22,23=23;20,21=21,22
C[C+:20]1CC23C[CH2:10][CH:11]1CC2C4(CCCC(C4CC3)(C)C(=O)OC)C.C(=O)[O-].O>>C[C:20]12[CH2:10]CC3(C1)CCC4C(C3C[CH+:11]2)(CCCC4(C)C(=O)OC)C.C(=O)[O-].O 10,11=10,20
C[Si-:10](C)(C)([O:11]CCC[Mg]Br)F>>C[Si:10](C)(C)F.C(C[O-:11])C[Mg]Br 10,11=11
C1CC[OH+:21][C:20](C1)(O)[OH:10]>>C(CC[OH:21])C[C:20](=[OH+:10])O 10=20;20,21=21
CO[C:20]([NH2:10])([OH2+:21])O>>CO[C:20](=[NH2+:10])O.[OH2:21] 10=20;20,21=21
CC(=O)CC[C:20](=[O:21])C.C1=COC(=C1)C[NH2:10].O>>CC(=O)CC[C:20](C)([NH2+:10]CC1=CC=CO1)[O-:21].O 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1=C(SC(=[N+]1CC2=CC=CC=C2)C(C[CH:10]=[C:11](C)[O-:12])(C(C)C)O)CCO.[Cl-]>>[H:20][CH:10](CC(C1=[N+](C(=C(S1)CCO)C)CC2=CC=CC=C2)(C(C)C)O)[C:11](=[O:12])C.CC[N:21](CC)CC.[Cl-] 10,11=10,20;20,21=21;12=11
C1=CC(=C(C=C1)COS(=O)(=O)C(F)(F)F)C[O-:10].[AlH3:20]>>C1=CC(=C(C=C1)COS(=O)(=O)C(F)(F)F)C[O:10][AlH3-:20] 10=20,
C[C:22](=[O:23])[CH:21]=[CH2:20].COC1=C(C(=CC=C1)C=O)O.C1C[N:10]2CCN1CC2>>C[C:22](=[CH:21][CH2:20][N+:10]12CCN(CC1)CC2)[O-:23].COC1=C(C(=CC=C1)C=O)O 10=20;20,21=21,22;22,23=23
CCCC[C:20](C(C)CCC1CCCC1)([N:10](CC)C(CC)C2CCCCC2)[OH2+:21].[BH3-]C#N.CCC(C1CCCCC1)NCC.[Na+]>>CCCC[C:20](=[N+:10](CC)C(CC)C1CCCCC1)C(C)CCC2CCCC2.[OH2:21].[BH3-]C#N.CCC(C1CCCCC1)NCC.[Na+] 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)[N+](=O)[O-].O[S+:20](=O)=O>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[S:20](=O)(=O)O)[N+](=O)[O-] 10,11=10,20
[H:20][O+:21](CC=O)C(CO)OCC=O.OS(=O)(=O)[O-:10]>>C(C=O)OC(CO)[O:21]CC=O.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
CC(C=O)C(CCC(=O)OC)[C:20](=[O+:21]CCO)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1>>CC(C=O)C(CCC(=O)OC)[C:20](C)([OH2+:10])[O:21]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1 10=20;20,21=21
CO[P:10](OC)OC.[CH3:20][I:21]>>CO[P+:10]([CH3:20])(OC)OC.[I-:21] 10=20;20,21=21
[H:20][O+:21](C)C(C(C)Br)(O)Br.[Br-:10]>>[H:20][Br:10].CC(C(O)([O:21]C)Br)Br 10=20;20,21=21
C[C:10]1(OC2CCCC3C2([O+:11]1[Si](C)(C)C)C(=C)CC3)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[C+:10](C)OC1CCCC2C1(C(=C)CC2)[O:11][Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=11
[H:20][CH2:21]P(=O)(OC)OC.[H:10][Na:11]>>COP(=O)([CH2-:21])OC.[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[Li:11][C:10]1=C(C=C(C=C1C)C)C.CCC(=O)C(=O)OCC1=C(C=CC=C1)[I:20]>>[Li+:11].CCC(=O)C(=O)OCC1=C(C=CC=C1)[I-:20][C:10]2=C(C=C(C=C2C)C)C 10,11=10,20
CC[C:20](=[O:21])OC1=CC=C(C=C1)[N+](=O)[O-].CN1C=C[N:10]=C1>>CC[C:20]([N+:10]1=CN(C=C1)C)([O-:21])OC2=CC=C(C=C2)[N+](=O)[O-] 10=20;20,21=21
